US07618975B2
(2-Chloro-quinazolin-4-yl)-(4-nitro-phenyl)-methyl-amine
The title compound was prepared from 2,4-dichloroquinazoline (50 mg, 0.251 mmol) and 4-nitro-N-methylaniline (46 mg, 0.302 mmol) by a procedure similar to example 1b and was isolated as yellow powder (6 mg, 12%). 1H NMR (CDCl3): 8.24 (d, J=8.7 Hz, 2H), 7.81 (dd, J=8.1, and 2.4 Hz, 1H), 7.68 (ddd, J=8.1, 7.5 and 2.4 Hz, 1H), 7.28 (d, J=8.7 Hz, 2H), 7.18 (ddd, J=8.1, 7.5 and 2.4 Hz, 1H), 7.07 (d, J=7.8 Hz, 1H), 3.75 (s, 3H).

reactant | 2,4-dichloroquinazoline | 0.251 mmol, 50 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-nitro-N-methylaniline | 0.302 mmol, 46 mg | [N+](=O)([O-])C1=CC=C(NC)C=C1 | C7H8N2O2
product | (2-Chloro-quinazolin-4-yl)-(4-nitro-phenyl)-methyl-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)[N+](=O)[O-] | C15H11ClN4O2
